US07863291B2
Ethoxycarbonyl isothiocyanate (4.32 mL, 36.6 mmol) and 2,4-dichloro-pyrimidin-5-ylamine (3.00 g, 18.29 mmol) were mixed neat and sonicated for 5 minutes to help dissolve. The mixture was stirred at ambient temperature for 10 minutes, at which time the entire mixture had solidified. Methanol (100 mL) was added and the mixture was refluxed for 30 minutes, cooled to ambient temperature and the solids were collected by filtration to afford ethyl 5-chlorothiazolo[5,4-d]pyrimidin-2-ylcarbamate (3.8 g, 80% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.64 (s, 1 H) 9.05 (s, 1 H) 4.31 (q, J=7.19 Hz, 2 H) 1.32 (t, J=7.15 Hz, 3 H).

reactant | Ethoxycarbonyl isothiocyanate | 36.6 mmol, 4.32 mL | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 2,4-dichloro-pyrimidin-5-ylamine | 18.29 mmol, 3.00 g | ClC1=NC=C(C(=N1)Cl)N | C4H3Cl2N3
solvent | Methanol | 100 mL | CO | CH4O
product | ethyl 5-chlorothiazolo[5,4-d]pyrimidin-2-ylcarbamate | 3.8 g, 80% yield | ClC=1N=CC2=C(N1)SC(=N2)NC(OCC)=O | C8H7ClN4O2S
